US08242133B2
A mixture of 1.78 g of 3-iodo-isonicotinic acid, 1.38 g of WSC and 12 ml of pyridine was stirred while heating at 50° C. for 15 minutes. Then, 1.15 g of 2-amino-4-(trifluoromethyl)phenol was added to the reaction mixture. The reaction mixture was stirred while heating at 80° C. for two hours. The reaction mixture was returned to room temperature, and concentrated under reduced pressure. Water was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to give 1.81 g of N-[2-hydroxy-5-(trifluoromethyl)phenyl]-3iodo isonicotinamide.

reactant | 3-iodo-isonicotinic acid | 1.78 g | IC1=C(C(=O)O)C=CN=C1 | C6H4INO2
reactant | WSC | 1.38 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-4-(trifluoromethyl)phenol | 1.15 g | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-hydroxy-5-(trifluoromethyl)phenyl]-3iodo isonicotinamide | 1.81 g | OC1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=NC=C1)I)=O | C13H8F3IN2O2
